US07820664B2
Step G: Methyl 7-(2-fluoro-4-iodophenylamino)-8-fluoro-4-methylquinazoline-6-carboxylate:
A mixture of methyl 5-acetyl-2-(2-fluoro-4-iodophenylamino)-3,4-difluorobenzoate (230 mg, 0.55 mmol) and formamide acetate (68 mg, 0.66 mmol) in DMA (5 ml) was heated at 95° C. for 6 hours. The reaction mixture was diluted with EtOAc and washed with water and brine. The organic layer was dried (MgSO4) and concentrated under reduced pressure to afford 205 mg (88%) of the title compound.

reactant | methyl 5-acetyl-2-(2-fluoro-4-iodophenylamino)-3,4-difluorobenzoate | 0.55 mmol, 230 mg | C(C)(=O)C=1C(=C(C(=C(C(=O)OC)C1)NC1=C(C=C(C=C1)I)F)F)F | C16H11F3INO3
reactant | formamide acetate | 0.66 mmol, 68 mg | C(C)(=O)O.C(=O)N
reactant | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 7-(2-fluoro-4-iodophenylamino)-8-fluoro-4-methylquinazoline-6-carboxylate | 205 mg, 88% | FC1=C(C=CC(=C1)I)NC1=C(C=C2C(=NC=NC2=C1F)C)C(=O)OC | C17H12F2IN3O2
